US06498172B1
7-[(4-Imidazol-1-yl-benzyl)-(pyridine-2-sulfonyl)-amino]-heptanoic acid
A mixutre of 7-[(4-imidazol-1-yl-benzyl)-(pyridine-2-sulfonyl)-amino]-heptanoic acid methyl ester (52 mg), porcine pancreas lipase (81 mg), acetone (1 mL), and phosphate buffer (pH=7, 5 mL) was stirred at room temperature for 20 h. The produce was extracted into CH2Cl2 (3×). The organic solution was dried (MgSO4), filtered, and concentrated to provide the title compound (44 mg). 1H NMR (400 MHz, CD3OD) δ 8.71 (m, 1H), 8.24 (s, 1H), 8.07-7.98 (m, 2H), 7.64-7.54 (m, 6H), 7.19 (s, 1H), 4.57 (s, 2H), 3.29 (t, 2H), 2.15 (t, 2H), 1.41 (m, 2H), 1.33 (m, 2H), 1.13 (m, 4H).

reactant | 7-[(4-imidazol-1-yl-benzyl)-(pyridine-2-sulfonyl)-amino]-heptanoic acid methyl ester | 52 mg | COC(CCCCCCN(S(=O)(=O)C1=NC=CC=C1)CC1=CC=C(C=C1)N1C=NC=C1)=O | C23H28N4O4S
reactant | phosphate | 5 mL, pH=7 | P(=O)([O-])([O-])[O-]
solvent | acetone | 1 mL | CC(=O)C | C3H6O
product | 7-[(4-Imidazol-1-yl-benzyl)-(pyridine-2-sulfonyl)-amino]-heptanoic acid | 44 mg | N1(C=NC=C1)C1=CC=C(CN(CCCCCCC(=O)O)S(=O)(=O)C2=NC=CC=C2)C=C1 | C22H26N4O4S
